US04985458
A mixture of 10.0 g (60.2 mM) of 4-ethylveratrole, 38.4 g (639 mM) of acetic acid and 115.0 g (668 mM) of 47% hydrobromic acid was heated under reflux for 4 hours with stirring After cooling to the room temperature, 100 ml of water was added and the resultant mixture was extractbd three times with each 110 ml of ether. The ether extract was successively washed with 110 ml of water, 150 g of 5% aqueous sodium thiosulfate solution and further twice with each 110 ml of water. The resulting ether solution was dried with anhydrous sodium sulfate, filtered, concentrated and distilled under vacuum to obtain 7.4 g (53.6 mM) of 4-ethylcatechol as a light yellow liquid having a boiling point of 111°-112 ° C./4 mmHg.

reactant | 4-ethylveratrole | 60.2 mM, 10.0 g | C(C)C=1C=C(C(=CC1)OC)OC | C10H14O2
reactant | acetic acid | 639 mM, 38.4 g | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 668 mM, 115.0 g | Br | BrH
reactant | water | 100 ml | O | H2O
solvent | ether | 110 ml | CCOCC | C4H10O
product | 4-ethylcatechol | 53.6 mM, 7.4 g | C(C)C=1C=C(C(O)=CC1)O | C8H10O2
